US04644010
Reaction of 2.0 g of 2-pyrroloylacetonitrile with 3.0 g of 3-(trifluoromethyl)-phenyl isocyanate in the presence of 1.8 g of Et3N in 25 ml of glyme similarly to the previous examples and recrystallization of the crude product from methanol gives β-oxo-α-(3-trifluoromethylphenylcarbamoyl)-β-(2-pyrrolyl)-propionitrile, m.p. 210°-212°.

reactant | 2-pyrroloylacetonitrile | 2.0 g | N1C(=CC=C1)C(=O)CC#N | C7H6N2O
reactant | 3-(trifluoromethyl)-phenyl isocyanate | 3.0 g | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
reactant | Et3N | 1.8 g | CCN(CC)CC | C6H15N
reactant | methanol | CO | CH4O
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
product | β-oxo-α-(3-trifluoromethylphenylcarbamoyl)-β-(2-pyrrolyl)-propionitrile | O=C(C(C#N)C(NC1=CC(=CC=C1)C(F)(F)F)=O)C=1NC=CC1 | C15H10F3N3O2
